US05747517
Preparation of 5-[[4-[[3,5-di(t-butyl)-4-methoxyphenyl]methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone
In a round bottom flask under nitrogen purge 4-[[3,5-di(t-butyl)-4-methoxyphenyl]methoxy]benzaldehyde (530 mg, 1.5 mmol) is admixed with rhodanine (240 mg, 1.8 mmol) and sodium acetate (490 mg, 6.0 mmol) in 10 ml of acetic acid. The reaction mixture is then refluxed overnight with stirring. After the refluxing, the reaction mixture was allowed to cool to 70° C. The precipitate was removed by filtration and washed lightly with acetic acid. The precipitate was triturated with ethyl ether, filtered, triturated with water, and then filtered again and washed with ethyl ether. The solvents were removed in vacuo to yield 160 mg (23%) of the title product. mp 213°-218° C. NMR, FDMS.

reactant | 4-[[3,5-di(t-butyl)-4-methoxyphenyl]methoxy]benzaldehyde | 1.5 mmol, 530 mg | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)COC1=CC=C(C=O)C=C1 | C23H30O3
reactant | rhodanine | 1.8 mmol, 240 mg | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 6.0 mmol, 490 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-[[3,5-di(t-butyl)-4-methoxyphenyl]methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone | 160 mg, 23% | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)COC1=CC=C(C=C1)C=C1C(NC(S1)=S)=O | C26H31NO3S2
